US05641431
10.0 g of 4-n-propyl-4-phenyl-4-silacyclohexanone was dripped into a 50 ml tetrahydrofuran solution of 1.0M p-chlorophenyl magnesium chloride at 40°-50° C. After stirring for 2 hours at 50° C., the mixture was poured into a saturated aqueous solution of ammonium chloride and extraction was conducted using benzene. 500 mg of p-toluenesulfonic acid monohydrate was then added to the benzene solution and refluxing was conducted while the water generated was distilled away. After the water stopped distilling away, the benzene layer was washed with an aqueous solution of sodium bicarbonate, dried and concentrated to obtain 4-(4-chlorophenyl)-1-phenyl-1-n-propyl-1-silacyclohex-3-ene. This was then dissolved in 50 ml of ethanol and hydrogenation was conducted using 1.0 g of palladium carbon as a catalyst. After the catalyst was filtered out, the product was concentrated to obtain 14.0 g of 4-(4-chlorophenyl)-1-phenyl-1-n-propyl-1-silacyclohexane.

reactant | 4-n-propyl-4-phenyl-4-silacyclohexanone | 10.0 g | C(CC)[Si]1(CCC(CC1)=O)C1=CC=CC=C1 | C14H20OSi
reactant | p-chlorophenyl magnesium chloride | 1.0M | ClC1=CC=C(C=C1)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | p-toluenesulfonic acid monohydrate | 500 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-1-phenyl-1-n-propyl-1-silacyclohex-3-ene | ClC1=CC=C(C=C1)C1=CC[Si](CC1)(CCC)C1=CC=CC=C1 | C20H23ClSi
